US07037908B2
N-(3,4-dimethylbenzyl)-5-hydroxy-2-(2-methoxyphenyl)-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide.
Prepared according to the procedure described for example 2 from 5-hydroxy-2-(2-methoxy-phenyl)-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester (45.6 mg, 0.15 mmol) and 3,4-dimethylbenzylamine (102 mg, 0.75 mmol). The title product was obtained as a brown solid (53.5 mg, 91% yield). 1HNMR (500 MHz, CDCl3) δ: 12.50–11.95 (1H, br s), 7.85 (1H, t, J=4.58 Hz), 7.47 (1H, td, J=8.24, 1.83 Hz), 7.27 (1H, dd, J=17.63, 0.83 Hz), 7.09–7.02 (4H, m), 6.97 (1H, d, J=8.24 Hz), 4.49 (2H, d, J=5.79 Hz), 3.81 (3H, s), 3.34 (3H, s) 2.23 (3H, s), 2.22 (3H, s). HRMS (ESI) calcd for C22H24N3O4 (M+H): 394.1767; found: 394.1781.

reactant | 5-hydroxy-2-(2-methoxy-phenyl)-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester | 0.15 mmol, 45.6 mg | C(C)OC(=O)C=1N=C(N(C(C1O)=O)C)C1=C(C=CC=C1)OC | C15H16N2O5
reactant | 3,4-dimethylbenzylamine | 0.75 mmol, 102 mg | CC=1C=C(CN)C=CC1C | C9H13N
product | N-(3,4-dimethylbenzyl)-5-hydroxy-2-(2-methoxyphenyl)-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide | CC=1C=C(CNC(=O)C=2N=C(N(C(C2O)=O)C)C2=C(C=CC=C2)OC)C=CC1C | C22H23N3O4
